2175-08-09 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2175-8-8**] 12:07 PM
 BLOOD CULTURED - At [**2175-8-8**] 02:00 PM
 ERCP - At [**2175-8-8**] 04:30 PM
 ARTERIAL LINE - START [**2175-8-8**] 07:40 PM
 BLOOD CULTURED - At [**2175-8-9**] 02:24 AM
 FEVER - 102.7
F - [**2175-8-9**] 12:45 AM
   -off sedating meds as of 2am; levophed for low BP, stopped and then
   restarted this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-8**] 10:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2175-8-8**] 07:40 PM
   Fentanyl - [**2175-8-8**] 08:20 PM
   Pantoprazole (Protonix) - [**2175-8-8**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-9**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.3
C (101
   HR: 83 (79 - 137) bpm
   BP: 108/55(71) {66/35(45) - 240/115(154)} mmHg
   RR: 20 (10 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 13 (12 - 232)mmHg
   CO/CI (Fick): (20.6 L/min) / (8.4 L/min/m2)
   SvO2: 84%
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  6,117 mL
                                                                  3,985 mL
   PO:
   TF:
   IVF:
                                                                  1,117 mL
                                                                  3,985 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    100 mL
   Urine:
                                                                    690 mL
                                                                    100 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  5,417 mL
                                                                  3,885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.44/37/107/26/0
   Ve: 14.7 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Gen: awake, not agitated, able to respond to questions and commands
   HEENT: NCAT MMM pink conjunctiva, ET 7.5
   CV: RRR S1S2 no m/r/g
   PULM: clear b/l
   ABD: soft obese, nontender nondistended hyperactive bs
   EXT: WWP 2+dp pulses b/l, no cyanosis
   Labs / Radiology
   157 K/uL
   9.3 g/dL
   130 mg/dL
   10.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   46 mg/dL
   101 mEq/L
   142 mEq/L
   37
   5.3 K/uL
        [image002.jpg]
                             [**2175-8-8**]  08:35 AM
                             [**2175-8-8**]  01:21 PM
                             [**2175-8-8**]  01:55 PM
                             [**2175-8-8**]  08:49 PM
                             [**2175-8-8**]  08:56 PM
                             [**2175-8-8**]  10:22 PM
                             [**2175-8-9**]  02:13 AM
                             [**2175-8-9**]  02:23 AM
                             [**2175-8-9**]  04:55 AM
   WBC
   6.9
   5.3
   Hct
   33.2
   26.7
   37
   Plt
   179
   157
   Cr
   9.1
   10.1
   10.6
   TropT
   0.21
   0.29
   TCO2
   32
   31
   28
   26
   Glucose
   125
   101
   128
   130
   Other labs: CK / CKMB / Troponin-T:534/5/0.29, ALT / AST:50/31, Alk
   Phos / T Bili:155/3.7, Amylase / Lipase:[**Telephone/Fax (1) 484**],
   Differential-Neuts:92.5 %, Lymph:3.1 %, Mono:4.0 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.5 g/dL, LDH:165 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.
   .
   # Hypotension/Sepsis: Patient meets SIRS criteria with fever,
   tachypnea, tachycardia and lactate of 2.5 consistent with sepsis.
   Infectious source likely biliary tract vs. HD line infection, pulmonary
   source (although CXR does not support PNA). Patient has required both
   fluids and pressors overnight to maintain MAP>65. Lactate responded
   with initial fluid to 1.7, Sv02 78. Random cortisol 34.3. Patient
   currently on PS PEEP 8 FIO2 60%. In setting of unknown etiology of
   sepsis would not move to extubate at this time.
   - continue to treat underlying infection with IV
   vancomycin/unasyn/gentamycin
   - IVF to maintain CVP 12-14, MAP >65
   - attempt to wean off levophed today if BP is stable
   - check serial lactates
   - f/u ERCP recs and findings
   - f/u final OSH CT read, outside blood cultures
   .
   # Gallstone Pancreatitis: Bump in amylase/lipase may be [**12-31**] ERCP and
   not pancreatitis. If patient initially presented w/pancreatitis then
   standard of care would be to treat with PO nutrition, IV fluids and
   pain medication. Patient may be able to tolerate TF slowly. Monitor
   iCa, vanco/zosyn/gent as above.
   - TF unless unable to tolerate or contraindicated in treatment of
   underlying sepsis
   - replete calcium, monitor [**Hospital1 **] Ca levels
   - aggressive volume resuscitation
   - f/u ERCP recs and any further recommended studies (ie. RUQ US)
   .
   # ESRD: On HD as outpatient, M/W/F. Renal is following patient and
   suggested waiting until tomorrow to resume HD>
   - f/u renal recs, will plan for HD tomorrow
   - dose all abx w/ HD
   - monitor UOP  (if any)
   - resume phos binders when taking po
   - resume sensipar when taking po
   - monitor chem daily
   .
   # Hepatitis: Likely congestive with obstruction. Trending down today.
   - Trend LFTs daily
   .
   # Hypoxia: Sepsis vs. CHF although CXR without infiltrate, no sputum or
   cough, but also on differential.
   - continue supplemental o2
   .
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event.
   - continue aspirin/plavix
   - continue statin as shown to have some anti-inflammatory effect in
   setting of chronic disease and infection
   - consider ECHO to further work-up cardiac etiology and as baseline
   - telemetry
   .
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   .
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis are within normal limits and hct has been stable.
   - guaiac stools
   - monitor Hct
   - f/u iron studies/retic/b12/folate
   .
   # FEN: ?NPO pending ERCP recs; if NPO allow for IVF, aggressive calcium
   and mag repetion.
   .
   # PPx: Heparin, colace, senna, PPI, ssi.
   .
   # Acccess: right IJ triple lumen, PIV x1.
   .
   # Code: Full.
   .
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-09 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, spiked temperature, given tylenol, dropped blood pressure,
   given IVFs and started on levophed
   Continues on levophed currently at 0.04 mcg/kg/min
   -off sedation
   24 Hour Events:
 MULTI LUMEN - START [**2175-8-8**] 12:07 PM
 BLOOD CULTURED - At [**2175-8-8**] 02:00 PM
 ERCP - At [**2175-8-8**] 04:30 PM
 ARTERIAL LINE - START [**2175-8-8**] 07:40 PM
 BLOOD CULTURED - At [**2175-8-9**] 02:24 AM
 FEVER - 102.7
F - [**2175-8-9**] 12:45 AM
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-9**] 06:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2175-8-8**] 07:40 PM
   Fentanyl - [**2175-8-8**] 08:20 PM
   Pantoprazole (Protonix) - [**2175-8-8**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-9**] 06:00 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2175-8-9**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.4
C (101.2
   HR: 86 (78 - 137) bpm
   BP: 116/62(78) {66/35(45) - 240/115(154)} mmHg
   RR: 32 (10 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 190 kg (admission): 138 kg
   Height: 69 Inch
   CVP: 15 (12 - 232)mmHg
   CO/CI (Fick): (20.6 L/min) / (8.4 L/min/m2)
   SvO2: 84%
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  6,117 mL
                                                                  4,655 mL
   PO:
   TF:
   IVF:
                                                                  1,117 mL
                                                                  4,625 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    412 mL
   Urine:
                                                                    690 mL
                                                                    412 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  5,417 mL
                                                                  4,243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 520 (520 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   SpO2: 95%
   ABG: 7.35/49/99.[**Numeric Identifier 433**]/26/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Intubated,
   Chest: Clear to auscultation bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abdominal: Soft, Non-tender
   Skin:  warm, dry
   Neurologic: intubated,
   Labs / Radiology
   9.3 g/dL
   157 K/uL
   130 mg/dL
   10.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   46 mg/dL
   101 mEq/L
   142 mEq/L
   37
   5.3 K/uL
        [image002.jpg]
                             [**2175-8-8**]  08:35 AM
                             [**2175-8-8**]  01:21 PM
                             [**2175-8-8**]  01:55 PM
                             [**2175-8-8**]  08:49 PM
                             [**2175-8-8**]  08:56 PM
                             [**2175-8-8**]  10:22 PM
                             [**2175-8-9**]  02:13 AM
                             [**2175-8-9**]  02:23 AM
                             [**2175-8-9**]  04:55 AM
                             [**2175-8-9**]  08:51 AM
   WBC
   6.9
   5.3
   Hct
   33.2
   26.7
   37
   Plt
   179
   157
   Cr
   9.1
   10.1
   10.6
   TropT
   0.21
   0.29
   TCO2
   32
   31
   28
   26
   28
   Glucose
   125
   101
   128
   130
   Other labs: CK / CKMB / Troponin-T:534/5/0.29, ALT / AST:50/31, Alk
   Phos / T Bili:155/3.7, Amylase / Lipase:[**Telephone/Fax (1) 484**],
   Differential-Neuts:92.5 %, Lymph:3.1 %, Mono:4.0 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.5 g/dL, LDH:165 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   A)
   1: Sepsis/septic shock: most likely biliary source although will
   consider other sources such as pneumonia (CXR reveals right lower lobe
   infiltrate so could have a component of pneumonia)
   Plan:
   -          Continue broad-spectrum antibiotics
   -          Right upper quadrant ultrasound
   -          Continue levophed - > check hemodynamic parameters including
   lactate, CI, CVP, ECHO (currently CVP 15, scvo2 80%) -> fluids/pressors
   as needed based on hemodynamics.  At the moment, will give bolus and
   see if comes off pressors.
   -          Keep intubated while Hemodynamically compromised
   -          Will check ECHO to rule out pericardial effusion as patient
   is on minoxidil and has ESRD, both contributing risk factors
   2: Acute Respiratory Failure
   Plan:
   -          Continue mechanical ventilation for now given hemodyndamic
   status
   -          When hemodynamics improve, will concentrate on weaning and
   will likely need HD prior to doing so
   3: Pancreatitis: Likely related to gallstone +/- ERCP; will follow
   4: ESRD:
   5: CAD:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes

2175-08-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2175-8-9**] 12:00 PM
   RUQ US
 TRANSTHORACIC ECHO - At [**2175-8-9**] 03:49 PM
 URINE CULTURE - At [**2175-8-10**] 04:38 AM
 BLOOD CULTURED - At [**2175-8-10**] 04:45 AM
   a line
 SPUTUM CULTURE - At [**2175-8-10**] 06:23 AM
 FEVER - 102.9
F - [**2175-8-10**] 04:00 AM
   -TF stopped this morning d/t high residuals
   -Spiked to 101 this morning; MAP 50s, given 500cc bolus this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-10**] 06:23 AM
   Vancomycin
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2175-8-9**] 03:15 PM
   Fentanyl - [**2175-8-9**] 08:03 PM
   Morphine Sulfate - [**2175-8-9**] 09:45 PM
   Metoprolol - [**2175-8-9**] 10:38 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-10**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-10**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.2
C (100.8
   HR: 93 (71 - 104) bpm
   BP: 81/49(59) {81/49(59) - 230/91(132)} mmHg
   RR: 25 (11 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 16 (12 - 24)mmHg
   CO/CI (Fick): (13.7 L/min) / (5.4 L/min/m2)
   SvO2: 81%
   Total In:
                                                                  7,495 mL
                                                                    214 mL
   PO:
   TF:
                                                                    118 mL
                                                                     40 mL
   IVF:
                                                                  7,217 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,027 mL
                                                                    520 mL
   Urine:
                                                                  1,027 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,468 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 700) mL
   Vt (Spontaneous): 812 (460 - 812) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.28/45/62/20/-5
   Ve: 15.1 L/min
   PaO2 / FiO2: 89
   Physical Examination
   HEENT: NCAT MMM anicteric
   CV: RRR S1S2 [**1-4**] murmur
   PULM:clear bilaterally with scant crackles at bases
   ABD: distended, obese, nontender to palp, active bs throughout
   EXT: WWP no rashes, minimal bipedal edema, 1+dp pulses
   NEURO: able to respond to questions, alert and oriented
   Labs / Radiology
   175 K/uL
   10.7 g/dL
   104 mg/dL
   12.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   58 mg/dL
   101 mEq/L
   140 mEq/L
   33.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2175-8-8**]  10:22 PM
                             [**2175-8-9**]  02:13 AM
                             [**2175-8-9**]  02:23 AM
                             [**2175-8-9**]  04:55 AM
                             [**2175-8-9**]  08:51 AM
                             [**2175-8-9**]  05:23 PM
                             [**2175-8-9**]  11:19 PM
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
   WBC
   5.3
   6.5
   Hct
   26.7
   37
   33.1
   Plt
   157
   175
   Cr
   10.6
   12.3
   TropT
   0.59
   TCO2
   28
   26
   28
   26
   24
   25
   22
   Glucose
   128
   130
   104
   Other labs: PT / PTT / INR:14.6//1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:44/24, Alk Phos / T Bili:214/4.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL,
   LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.
   .
   # Hypotension/Sepsis: Patient met SIRS criteria with fever, tachypnea,
   tachycardia and lactate of 2.5 consistent with sepsis. Infectious
   source likely biliary tract vs. HD line infection. Patient has been HD
   labile, with hyper/hypotension requiring fluid boluses at times. He is
   currently being dialysed which may assist with his BP. CXR this AM
   appears improved from prior, making PNA a less likely cause of his
   sepsis. ? endocarditis, as TTE was not fully able to evaluate valves
   and patient is on long-standing HD.
   - continue to treat underlying infection with IV
   vancomycin/unasyn/gentamycin until return of blood cx
   - IVF to maintain CVP 12-14, MAP >65
   - attempt to wean off ventilator in PM
   - consider TEE r/o endocarditis
   - f/u outside blood cultures
   .
   # Gallstone Pancreatitis: Bump in amylase/lipase may be [**12-31**] ERCP and
   not pancreatitis. Enzymes continue to trend down. Consider also
   - TF unless unable to tolerate or contraindicated in treatment of
   underlying sepsis
   - replete calcium, monitor [**Hospital1 **] Ca levels
   - aggressive volume resuscitation
   - f/u ERCP recs and any further recommended studies (ie. RUQ US)
   .
   # ESRD: On HD as outpatient, M/W/F. Renal is following patient and
   suggested waiting until tomorrow to resume HD>
   - f/u renal recs, will plan for HD tomorrow
   - dose all abx w/ HD
   - monitor UOP  (if any)
   - resume phos binders when taking po
   - resume sensipar when taking po
   - monitor chem daily
   .
   # Hepatitis: Likely congestive with obstruction. Trending down today.
   - Trend LFTs daily
   .
   # Hypoxia: Sepsis vs. CHF although CXR without infiltrate, no sputum or
   cough, but also on differential.
   - continue supplemental o2
   .
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event.
   - continue aspirin/plavix
   - continue statin as shown to have some anti-inflammatory effect in
   setting of chronic disease and infection
   - consider ECHO to further work-up cardiac etiology and as baseline
   - telemetry
   .
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   .
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis are within normal limits and hct has been stable.
   - guaiac stools
   - monitor Hct
   - f/u iron studies/retic/b12/folate
   .
   # FEN: ?NPO pending ERCP recs; if NPO allow for IVF, aggressive calcium
   and mag repetion.
   .
   # PPx: Heparin, colace, senna, PPI, ssi.
   .
   # Acccess: right IJ triple lumen, PIV x1.
   .
   # Code: Full.
   .
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-10 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, had labile blood pressures with transient episode of
   hypotension and hypertension.  Now normotensive.
   Right upper quadrant ultrasound showed fatty liver but could not
   visualize ducts
   ECHO  revealed mitral valve regurgitation
   24 Hour Events:
 ULTRASOUND - At [**2175-8-9**] 12:00 PM
   RUQ US
 TRANSTHORACIC ECHO - At [**2175-8-9**] 03:49 PM
 URINE CULTURE - At [**2175-8-10**] 04:38 AM
 BLOOD CULTURED - At [**2175-8-10**] 04:45 AM
   a line
 BLOOD CULTURED - At [**2175-8-10**] 04:46 AM
   central line
 SPUTUM CULTURE - At [**2175-8-10**] 06:23 AM
 FEVER - 102.9
F - [**2175-8-10**] 04:00 AM
   Patient is intubated and unable to provide full history
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-10**] 06:23 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2175-8-9**] 09:45 PM
   Metoprolol - [**2175-8-9**] 10:38 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-10**] 06:23 AM
   Midazolam (Versed) - [**2175-8-10**] 08:55 AM
   Fentanyl - [**2175-8-10**] 09:15 AM
   Other medications:
   Med list reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2175-8-10**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37
C (98.6
   HR: 81 (70 - 104) bpm
   BP: 135/69(88) {81/49(59) - 230/91(132)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 194 kg (admission): 138 kg
   Height: 71 Inch
   CVP: 18 (13 - 24)mmHg
   CO/CI (Fick): (13.7 L/min) / (5.4 L/min/m2)
   SvO2: 81%
   Total In:
                                                                  7,495 mL
                                                                    816 mL
   PO:
   TF:
                                                                    118 mL
                                                                     40 mL
   IVF:
                                                                  7,217 mL
                                                                    716 mL
   Blood products:
   Total out:
                                                                  1,027 mL
                                                                    644 mL
   Urine:
                                                                  1,027 mL
                                                                    644 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,468 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 700) mL
   Vt (Spontaneous): 812 (460 - 812) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   SpO2: 98%
   ABG: 7.34/40/74/20/-3
   Ve: 14.3 L/min
   PaO2 / FiO2: 123
   Physical Examination
   Gen: Intubated/sedated
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   175 K/uL
   104 mg/dL
   12.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   58 mg/dL
   101 mEq/L
   140 mEq/L
   33.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2175-8-9**]  02:13 AM
                             [**2175-8-9**]  02:23 AM
                             [**2175-8-9**]  04:55 AM
                             [**2175-8-9**]  08:51 AM
                             [**2175-8-9**]  05:23 PM
                             [**2175-8-9**]  11:19 PM
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
                             [**2175-8-10**]  09:34 AM
   WBC
   5.3
   6.5
   Hct
   26.7
   37
   33.1
   Plt
   157
   175
   Cr
   10.6
   12.3
   TropT
   0.59
   TCO2
   26
   28
   26
   24
   25
   22
   23
   Glucose
   128
   130
   104
   Other labs: PT / PTT / INR:14.6//1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:44/24, Alk Phos / T Bili:214/4.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   1)       Hypotension/Sepsis
   -          call [**Hospital3 474**] to check original cultures/follow
   cultures from ERCP
   -          Continue broad-spectrum antibiotics
   -          Review ECHO
   2)       Acute Respiratory Failure:
   -          will decrease Fio2 and re-evaluate for possible extubation
   in the afternoon after run of dialysis
   3)       End Stage Renal Disease: HD today
   4)       Pancreatitis: may be related to ERCP
follow amylase/lipase
   5)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill (patient is critically ill)

2175-08-11 07:19:00 Physician Resident Progress Note
Chief Complaint: 43 year old man with CAD, HTN, stage V CKD on HD, who
   presents with pancreatitis and sepsis s/p ERCP procedure.
   24 Hour Events:
   Recieved culture data from [**Hospital3 **]. blood cultures gorwing gram
   negative bacilli specifically enterobacter in both aerobic and
   anaerobic bottles, resistant to cefazolin but sensitive to everything
   else. Tried to wean a little bit off the ventilator yesterday. went
   down to FiO2 of 50% at 3 pm. Spoke with tee fellow, they do not feel
   that tte showed any worrisome findings that would be concerning for
   endocarditis. there are calcifications on the valves, however these are
   common in HD patients. tee fellow said they would be happy to do tee if
   we have high clinical suspicion or if patient fails to improve, however
   decision to hold off for the movement was made. Blood cultures all no
   growth here, urine culture no growth here. Called renal, plan is to
   dialyze him again this morning. plan to also consider d/c of vanc and
   gent today. at 7 pm had to increase ventilator settings: was on fio2
   60% and PEEP of 10, so increased PEEP to 12.  Yesterday held tube feeds
   for goal of extubation, however extubation was not possible given
   elevated PEEP and FiO2 requirement. Will check on positioning of NG
   tube and then resume tube feeds after that.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-10**] 02:34 PM
   Gentamicin - [**2175-8-10**] 05:25 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-8-10**] 02:29 PM
   Fentanyl - [**2175-8-10**] 04:31 PM
   Midazolam (Versed) - [**2175-8-10**] 06:45 PM
   Morphine Sulfate - [**2175-8-11**] 12:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: + headache
   Flowsheet Data as of  [**2175-8-11**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 74 (70 - 85) bpm
   BP: 167/84(110) {84/50(60) - 187/94(124)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155.7 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 23 (11 - 27)mmHg
   CO/CI (Fick): (19.9 L/min) / (7.9 L/min/m2)
   SvO2: 81%
   Total In:
                                                                  1,368 mL
                                                                     84 mL
   PO:
   TF:
                                                                     40 mL
   IVF:
                                                                    988 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,112 mL
                                                                    285 mL
   Urine:
                                                                  1,112 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 346 (346 - 530) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 27
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.36/49/55/25/0
   Ve: 11 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   9.9 g/dL
   118 mg/dL
   8.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   37 mg/dL
   109 mEq/L
   149 mEq/L
   28.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2175-8-9**]  08:51 AM
                             [**2175-8-9**]  05:23 PM
                             [**2175-8-9**]  11:19 PM
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
                             [**2175-8-10**]  09:34 AM
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
   WBC
   6.5
   4.8
   Hct
   33.1
   28.8
   Plt
   175
   152
   Cr
   12.3
   8.7
   TropT
   0.59
   TCO2
   28
   26
   24
   25
   22
   23
   26
   29
   Glucose
   104
   118
   Other labs: PT / PTT / INR:14.6//1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:32/22, Alk Phos / T Bili:221/5.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.  TTE as per cardiology not concerning
   for endocarditis.
   # Hypotension/Sepsis: Patient met SIRS criteria with fever, tachypnea,
   tachycardia and lactate of 2.5 consistent with sepsis. Infectious
   source likely biliary tract vs. HD line infection. Patient has been HD
   labile, with hyper/hypotension requiring fluid boluses at times. He is
   currently being dialysed which may assist with his BP. CXR this AM
   appears improved from prior, making PNA a less likely cause of his
   sepsis.
   - continue to treat underlying infection with zosyn
   - with blood cultures from [**Hospital3 **] would d/c of vanco/gent
   today
   - patient has been afebrile since yesterday
   - IVF to maintain CVP 12-14, MAP >60
   - TTE did not demonstrate any evidence of endocarditis, suspect that
   most likely source of infection from biliary source
   - [**Hospital3 **] blood culture
 grew enterobacter resistant to
   cefazolin but otherwise pan-sensitive
   .
   # Liver function/Gallstone pancreatitis: Bump in amylase/lipase may be
   secondary to gallstone pancreatitis vs. s/p ERCP procedure. Enzymes
   continue to trend down.
   - today total bilirubin is elevated, may in the setting of sepsis and
   ischemia or alternatively may be secondary to hemolysis given decreased
   crit
 will re-check crit, bili, hemolysis labs, consider ruq
   ultrasound if bilirubin continues to trend up
   - TF unless unable to tolerate
   - monitor electrolytes and replete prn
   # ESRD: On HD
   - patient got dialysis yesterday and took off 4 L, called renal fellow,
   plan is to get HD again today  (plan for 5 pm) as concern that fluid
   overload may be contributing to inability to wean off the [**Hospital3 523**]
   - dose all abx w/ HD
   - resume phos binders when taking po
   - resume sensipar when taking po
   - monitor chem daily
   # Respitary failiure  - likely sepsis vs. CHF although CXR without
   infiltrate, no sputum or cough, but also on differential. CXR appears
   improved since yesterday.
   - continue supplemental o2
   - wean as tolerated from [**Last Name (LF) 523**], [**First Name3 (LF) 116**] again try to lower PEEP and fio2
   requirements today after hemodialysis
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - continue aspirin/plavix
   - continue statin as shown to have some anti-inflammatory effect in
   setting of chronic disease and infection
   - telemetry
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   .
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis are within normal limits and hct has been stable.
   - crit acutely dropped overnight, will re-check and order hemolysis
   labs
   - monitor Hct
   - f/u iron studies/retic/b12/folate
   .
   # FEN: will hold tube feeds with goal for extubation later today,
   aggressive calcium and mag repetion PRN.
   .
   # PPx: Heparin, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.
   # Code: Full.
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-11 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new problems.  [**Name (NI) 537**] remains ventilator-dependent as was
   unable to extubate after HD.
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-10**] 02:34 PM
   Gentamicin - [**2175-8-10**] 05:25 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-8-10**] 02:29 PM
   Fentanyl - [**2175-8-10**] 04:31 PM
   Midazolam (Versed) - [**2175-8-10**] 06:45 PM
   Morphine Sulfate - [**2175-8-11**] 12:30 AM
   Other medications:
   Reviewed med list - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:Unable
   Flowsheet Data as of  [**2175-8-11**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 73 (72 - 84) bpm
   BP: 145/75(100) {91/53(66) - 187/94(124)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155.7 kg (admission): 138 kg
   Height: 71 Inch
   CVP: 22 (11 - 27)mmHg
   SvO2: 81%
   Total In:
                                                                  1,368 mL
                                                                    177 mL
   PO:
   TF:
                                                                     40 mL
   IVF:
                                                                    988 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,112 mL
                                                                    405 mL
   Urine:
                                                                  1,112 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (346 - 516) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: 7.36/49/55/25/0
   Ve: 12.5 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Well nourished, obese
   Head, Ears, Nose, Throat: Normocephalic, AT
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (
   Neurologic: sedated, intubated but does respond and no focal neuro
   deficits
   Labs / Radiology
   9.9 g/dL
   152 K/uL
   118 mg/dL
   8.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   37 mg/dL
   109 mEq/L
   149 mEq/L
   28.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2175-8-9**]  08:51 AM
                             [**2175-8-9**]  05:23 PM
                             [**2175-8-9**]  11:19 PM
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
                             [**2175-8-10**]  09:34 AM
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
   WBC
   6.5
   4.8
   Hct
   33.1
   28.8
   Plt
   175
   152
   Cr
   12.3
   8.7
   TropT
   0.59
   TCO2
   28
   26
   24
   25
   22
   23
   26
   29
   Glucose
   104
   118
   Other labs: PT / PTT / INR:14.6//1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:32/22, Alk Phos / T Bili:221/5.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Microbiology: enterobacter
   Assessment and Plan
   A:
   1) Acute Respiratory Failure:
   - continues on CPAP
   - will perform aggressive HD to help get patient off the ventilator
   2) Hypotension/sepsis: now culturing out  enterobacter which is
   sensitive to Zosyn
   - Discontinue vancomycin and gentamycin
   3) ESRD: on HD - will HD today
   4) Increased LFTs: may be a combination of ischemic injury or
   cholangitis.  The enzymes are trending downward and the bil upward and
   thus likely was a ischemic injury to liver as well.  Will follow.
   5)  CAD: aspirin and plavix
   6) Anemia:
   7) FEN: hold tube feeds for possible extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 (patient is critically ill)

2175-08-12 06:26:00 Physician Resident Progress Note
Chief Complaint: High-grade fever and respiratory distress after ERCP
   24 Hour Events:
   - HD yesterdat
   - NG tube out; patient does not want it put in so meds needed to be
   changed to IV. Will hold TF in AM for potential extubation.
   - IV lopressor for SBPs 170s, has come down to 130s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2175-8-10**] 05:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-12**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2175-8-11**] 11:15 AM
   Lorazepam (Ativan) - [**2175-8-11**] 08:30 PM
   Metoprolol - [**2175-8-11**] 08:30 PM
   Pantoprazole (Protonix) - [**2175-8-11**] 10:15 PM
   Morphine Sulfate - [**2175-8-12**] 04:46 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-12**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-12**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 62 (58 - 80) bpm
   BP: 141/79(102) {110/65(81) - 200/102(139)} mmHg
   RR: 20 (15 - 31) insp/[**Year (4 digits) **]
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 14 (11 - 22)mmHg
   Total In:
                                                                    410 mL
                                                                    130 mL
   PO:
   TF:
   IVF:
                                                                    360 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  6,315 mL
                                                                     38 mL
   Urine:
                                                                    515 mL
                                                                     38 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,905 mL
                                                                     92 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (351 - 667) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 9.9 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious; Responds to verbal commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), Fistula
   L arm ok
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: +/+++, Left: +/+++
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   155 K/uL
   9.3 g/dL
   121 mg/dL
   7.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   29 mg/dL
   106 mEq/L
   149 mEq/L
   27.8 %
   4.7 K/uL
        [image002.jpg]
                             [**2175-8-9**]  05:23 PM
                             [**2175-8-9**]  11:19 PM
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
                             [**2175-8-10**]  09:34 AM
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
   WBC
   6.5
   4.8
   4.7
   Hct
   33.1
   28.8
   27.8
   Plt
   175
   152
   155
   Cr
   12.3
   8.7
   7.3
   TropT
   0.59
   TCO2
   26
   24
   25
   22
   23
   26
   29
   Glucose
   104
   118
   121
   Other labs: PT / PTT / INR:13.7/30.2/1.1, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:31/18, Alk Phos / T Bili:221/5.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:166 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.  TTE as per cardiology not concerning
   for endocarditis.
   # Hypotension/Sepsis: Patient with SIRS, lactate of 2.5 and awaiting
   for culture data. He had gram negative rods in the biliary fluid, but
   nothing on culture so far. He is being intubated for 4 days so far. CXR
   seems with more fluids than before.
   - continue to treat underlying infection with zosyn day 5
   - patient has been afebrile since 2 days ago
   - [**Hospital3 **] blood culture
 grew enterobacter resistant to
   cefazolin but otherwise pan-sensitive
   # Respiratory failure: Pt originaly intubated for SIRS with respiratory
   distress. However, with fever spike and low BP he received fluid
   resusitation. Now worsening pulmonary edema, despite having frequent
   hemodialysis (-6L yesterday). Patient with adequate mental status and
   secretions for extuabtion. He still requiring high PEEP.
   - Continue daily HD until fluid status improves to allow extubation.
   - Try to wean down PEEP after HD
   - If doing ok SBT later today
   .
   # Liver function/Gallstone pancreatitis: Bump in amylase/lipase may be
   secondary to gallstone pancreatitis vs. s/p ERCP procedure. Enzymes
   continue to trend down.
   - Touch base with ERCP fellow
   - Abdomen CT to evaluate for position and patency of stent
   -f/u liver enzymes
   - TF unless unable to tolerate or prolongued ET requirements
   - monitor electrolytes and replete prn
   # ESRD: On HD
   - continue HD; goal -6L
   - dose all abx w/ HD
   - resume phos binders when taking po
   - resume sensipar when taking po
   - monitor chem daily
   # Respitary failiure  - likely sepsis vs. CHF although CXR without
   infiltrate, no sputum or cough, but also on differential. CXR appears
   improved since yesterday.
   - continue supplemental o2
   - wean as tolerated from [**Last Name (LF) 523**], [**First Name3 (LF) 116**] again try to lower PEEP and fio2
   requirements today after hemodialysis
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - continue aspirin/plavix
   - continue statin as shown to have some anti-inflammatory effect in
   setting of chronic disease and infection
   - telemetry
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis are within normal limits and hct has been stable.
   - crit acutely dropped overnight, will re-check and order hemolysis
   labs
   - monitor Hct
   - f/u iron studies/retic/b12/folate
   # FEN: NPO, will need NGT if unable to extubate within 24 horus,
   aggressive calcium and mag repetion PRN.
   .
   # PPx: Heparin, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.
   # Code: Full.
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I reviewed the history and relevant labs and examined the patient.  I
   was also physically present with the MICU team for the key portions of
   the services provided.  I agree with the note above, including the
   assessment and plan.  I would add and emphasize the following:
   Overnight antibiotics simplified to just Zosyn.  Pt remains on [**Year (4 digits) 523**]:
   PSV 10, PeeP 15, 40%, RR25, VT=600
   On exam: CVP= 14 I/0 over 24hr is 6L neg but LOS I/O is still 6L
   positive
   Lungs clear;   Bowel sounds present without distention;  Bilat edema;
   neuro
 pt strong and responsive; Ext- warm and well perfused
   Lab:  Bili up to 5.2 yesterday  CXR looks a bit wet to me; Sat 95% on
   PSV 10/5;  Bld Cx + for Enterbacter
   Probs:
   1.       Enterobacter Biliary Sepsis with hypotension, now improved
   Hemodynamically
   2.       Resp failure due to #1 and #3
   3.       ESRD, on HD, with residual fluid overload
   4.       Increasing BILI post ERCP,  ? etiology
   Plan:
   1.       Talk to GI about implications of increasing Bili
   2.       Dialyze off 5-6 liters today
   3.       If all looks well tomorrow AM, and pt tolerates PSV 8/5,  he
   may be candidate for extubation
   Patient critically ill.  Total time spent in care: 40 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], [**MD Number(1) 550**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2175-8-12**] 19:02 ------

2175-08-13 07:05:00 Physician Resident Progress Note
Chief Complaint: Fever, increase WBC and RUQ pain.
   24 Hour Events:
   -CT scan of abdomen: no evidence of stent obstruction or dilation; no
   evidence of cholecystitis.
   -HD today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2175-8-10**] 05:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-13**] 06:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Metoprolol - [**2175-8-12**] 08:10 AM
   Pantoprazole (Protonix) - [**2175-8-12**] 10:00 PM
   Morphine Sulfate - [**2175-8-13**] 04:23 AM
   Heparin Sodium (Prophylaxis) - [**2175-8-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-13**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 62 (57 - 84) bpm
   BP: 120/63(82) {94/53(69) - 157/84(106)} mmHg
   RR: 16 (11 - 25) insp/[**Year (4 digits) **]
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 16 (6 - 16)mmHg
   Total In:
                                                                    460 mL
                                                                    138 mL
   PO:
   TF:
   IVF:
                                                                    460 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  6,073 mL
                                                                      0 mL
   Urine:
                                                                     73 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,613 mL
                                                                    138 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (455 - 879) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.40/48/65/28/3
   Ve: 7.8 L/[**Year (4 digits) **]
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Systolic murmur in apex; old.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   223 K/uL
   9.6 g/dL
   108 mg/dL
   10.0 mg/dL
   28 mEq/L
   4.7 mEq/L
   48 mg/dL
   103 mEq/L
   148 mEq/L
   28.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2175-8-10**]  01:12 AM
                             [**2175-8-10**]  03:49 AM
                             [**2175-8-10**]  04:05 AM
                             [**2175-8-10**]  09:34 AM
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
   WBC
   6.5
   4.8
   4.7
   6.3
   Hct
   33.1
   28.8
   27.8
   28.4
   Plt
   175
   152
   155
   223
   Cr
   12.3
   8.7
   7.3
   10.0
   TropT
   0.59
   TCO2
   25
   22
   23
   26
   29
   31
   Glucose
   104
   118
   121
   108
   Other labs: PT / PTT / INR:13.7/30.2/1.1, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:32/24, Alk Phos / T Bili:248/8.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:158 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.  TTE as per cardiology not concerning
   for endocarditis.
   # Hypotension/Sepsis: Patient with SIRS, lactate of 2.5 with likely
   source biliary. He had gram negative rods in the biliary fluid, but
   nothing on culture here sof ar. Currently intubated with CXR seems with
   more fluids than before.
   - continue to treat underlying infection with zosyn
   - patient afebrile, stable white count
   - [**Hospital3 **] blood culture
 grew enterobacter resistant to
   cefazolin but otherwise pan-sensitive, narrowed antibiotic coverage to
   zosyn only (d/c gent, vanc)
   # Respiratory failure: Pt originaly intubated for SIRS with respiratory
   distress. However, with fever spike and low BP he received fluid
   resusitation. Now worsening pulmonary edema, despite having frequent
   hemodialysis (-6L yesterday). Patient with adequate mental status and
   secretions for extuabtion. He still requiring high PEEP.
   - Continue daily HD until fluid status improves to allow extubation.
   - Try to wean down PEEP after HD
   - If doing ok SBT later today with goal for extubation tonight or
   tomorrow morning
   .
   # Liver function/Gallstone pancreatitis: Bump in amylase/lipase may be
   secondary to gallstone pancreatitis vs. s/p ERCP procedure. Enzymes
   still trending up.
   - plan for ercp tomoorow
   - Abdomen CT to showed stent in right position, however suboptimal
   study for eval of stent patency
   - touched base with hepatology, believe this pattern of liver
   malfunction is likely due to stent occlusion as pattern is obstructive
   -continue to trend enzymes
   - currently off tube feeds, will keep NPO as for ERCP tomorrow
   - monitor electrolytes and replete prn
   # ESRD: On HD
   - continue HD; goal -6L
   - dose all abx w/ HD
   - resume phos binders when taking po
   - resume sensipar when taking po
   - monitor chem daily
   # Respitary failiure  - likely sepsis vs. CHF although CXR without
   infiltrate, no sputum or cough, but also on differential. CXR appears
   improved since yesterday.
   - continue supplemental o2
   - wean as tolerated from [**Last Name (LF) 523**], [**First Name3 (LF) 116**] again try to lower PEEP and fio2
   requirements today after hemodialysis
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - on aspirin and plavix but not getting PO which is appropriate since
   in for ERCP tomorrow, should resume s/p procedure when
   - continue statin as shown to have some anti-inflammatory effect in
   setting of chronic disease and infection
   - continue telemetry monitoring
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis labs are within normal limits and hct has been stable.
   - H/H this AM is [**9-26**], which is stable from yesterday
   - iron studies
 low iron, low tibc, high ferritin which is consistent
   with anemia of chronic disease
   - will continue to follow serial [**Last Name (LF) 567**], [**First Name3 (LF) **] benefit from EPO and iron
   as outpatient
   # FEN: hold tube feeds for now, will readdress nutritional status
   tomorrow after ERCP.
   .
   # PPx: Heparin, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.
   # Code: Full.
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   20 Gauge - [**2175-8-8**] 12:08 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have examined patient and have reviewed the relevant history and
   labs.  I was also present with the MICU team for the key portions of
   the services provided, and I agree with the note above, including its
   assessment and plan.  I would add and emphasize the following:
   Pt got 6L removed via ultrafiltration yesterday and is on tap to get 5
   L removed today.  He is anxious to get his ETT out!
   On exam: Tm= 99, P=62, BP= 128/63, Sat=97% on [**Year (4 digits) 523**]: PSV 10/ PEEP 15/
   Fi02 40%.  VT on [**Year (4 digits) 523**] = 500cc
   Pt very awake, strong.   Lungs clear, abd obese but nontender.  Skin
   jaundiced
   Lab: Bili up to 8.2 and chiefly direct.  ABG: 7.4/48/65
           Abd CT
 bibasilar opacities, either atelectasis or bibasilar
   pneumonias.  Stent seems OK.  No bile duct dilatation
   Problems:
   1.       [**Name2 (NI) **] stone pancreatitis and biliary sepsis with Enterobacter
   2.       Increasing Bilirubin, r/o due to occult stent occlusion that
   not being picked up on CT.
   3.       Bilateral lower lobe infiltrates, ? due to atelectasis vs
   pneumonia
   4.       Hypoxemia, likely due to obesity with V/Q mismatch, #3, and #5
   5.       Diastolic CHF
   6.       Resp failure, now on the [**Name2 (NI) 523**] chiefly due to #4
   7.       Chronic renal failure, with fluid overload, improving with
   ultrafiltration
   8.       CAD, s/p stent
   Plan:
   1.       Make I/O 5L neg today
   2.       Lower PEEP to 12 and does well to 8 then check ABG and assess
   his work of breathing
   3.       Convene mtg with GI/hepatology and ERCP to determine if repeat
   ERCP is necessary tomorrow
   4.       Follow Bili
   5.       If no ERCP, then can try extubation tomorrow AM if he does
   well on PEEP of 8. If ERCP in the works, then wait till he
s stable
   after it.
   6.       Needs NG feedings.  Can Dobhoff be placed in ERCP tomorrow?
   Patient is critically ill.  Total time spent = 45  [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], [**MD Number(1) 550**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2175-8-13**] 18:03 ------

2175-08-14 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HD yesterday w/4.2L
   -on PEEP 8 and FIO2 40%
   -CXR w/multifocal airspace opacities w/superimposed congestive failure
   -hepatology, ERCP consults yesterday: to ERCP today for possible stent
   obstruction
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-14**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-8-13**] 08:06 PM
   Morphine Sulfate - [**2175-8-13**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-14**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 72 (57 - 75) bpm
   BP: 98/54(69) {98/54(69) - 173/119(131)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 7 (1 - 17)mmHg
   Total In:
                                                                    460 mL
                                                                    129 mL
   PO:
   TF:
   IVF:
                                                                    460 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  4,214 mL
                                                                     17 mL
   Urine:
                                                                     14 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,754 mL
                                                                    112 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 397 (397 - 736) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 12 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   SpO2: 91%
   ABG: 7.28/58/62/25/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 155
   Physical Examination
   HEENT:NCAT MMM scleral icterus, pink conjunctiva
   CV: RRR S1S2
   PULM: diminished breath sounds bilaterally at bases w/scant rhonchi at
   upper lung fields [**12-31**] intubation
   ABD: obese, distended, nontender +bs throughout
   EXT: WWP 1+dp pulses 1+b/l pedal edema no rashes, cyanosis, petechiae
   Labs / Radiology
   255 K/uL
   10.3 g/dL
   93 mg/dL
   12.5 mg/dL
   25 mEq/L
   5.0 mEq/L
   66 mg/dL
   100 mEq/L
   144 mEq/L
   31.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   Hct
   28.8
   27.8
   28.4
   31.0
   Plt
   152
   155
   223
   255
   Cr
   8.7
   7.3
   10.0
   12.5
   TCO2
   26
   29
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:32/24, Alk Phos / T Bili:248/8.2,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:158 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.  TTE as per cardiology not concerning
   for endocarditis. CT shows no intrahepatic biliary dilatation and stent
   in appropriate position, despite rising Tbil and AP over several days.
   # Hypotension/Sepsis: Patient presented with SIRS, lactate of 2.5 with
   a presumed biliary source. OSH blood cultures grew enterobacter
   (pan-sensitive except to cefazolin), his cultures here have otherwise
   been negative. He had gram negative rods in the biliary fluid. He
   continues to have low-grade fevers on-off while on antibiotics, however
   has remained afebrile overnight. Most recent CXR shows some airspace
   opacities and congestive failure which is new for this patient.
   Currently he is being treated with zosyn (today day=6). Plan for ERCP
   today for rising bili counts which may represent a biliary obstruction,
   and likely the primary cause of his sepsis.
   - continue to treat underlying infection with zosyn
   - trend fevers and WBC
   -f/u pending blood and sputum cultures
   - [**Hospital3 **] blood culture
 grew enterobacter resistant to
   cefazolin but otherwise pan-sensitive, narrowed antibiotic coverage to
   zosyn only (d/c gent, vanc)
   # Respiratory failure: Patient is still requiring PEEP support on
   ventilator. [**Month (only) 11**] be candidate for extubation today, however given the
   ERCP would prefer to do this after procedure. HD has been able to
   remove significant amounts of fluid however on CXR patient appears to
   have congestive picture as well as some multifocal opacities concerning
   for infection. Will continue to wean throughout the day to allow for
   extubation.
   - F/u CXR and sputum cultures
   - Try to wean down PEEP after ERCP
   - If doing ok SBT later today with goal for extubation tonight or
   tomorrow morning
   .
   # Liver function/Gallstone pancreatitis: Despite lack of abdominal pain
   clinically and negative CT the patients bili and AP have continued to
   increase over the last several days which is concerning for
   obstruction. Hepatology and ERCP (appreciate recommendations) suggested
   ERCP today to evaluate further.
   - plan for ercp tomoorow
   -follow-up on erpc and hepatology recs
   - Abdomen CT to showed stent in right position, however suboptimal
   study for eval of stent patency
   -continue to trend enzymes
   -NPO as for ERCP tomorrow
   - monitor electrolytes and replete prn
   # ESRD: On HD
   - continue HD; goal -6L (yesterday 4.2L off)
   - dose all abx w/ HD
   - resume phos binders, sensipar when taking po
   - monitor chem daily
   # Respitary failiure  - likely sepsis vs. CHF although CXR without
   infiltrate, no sputum or cough, but also on differential. CXR appears
   improved since yesterday.
   - continue supplemental o2
   - wean as tolerated from [**Last Name (LF) 523**], [**First Name3 (LF) 116**] again try to lower PEEP and fio2
   requirements today after hemodialysis
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - resume aspirin, plavix, statin post-ERCP
   - continue telemetry monitoring
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis labs are within normal limits and hct has been stable.
   - H/H this AM is [**9-26**], which is stable from yesterday
   - iron studies
 low iron, low tibc, high ferritin which is consistent
   with anemia of chronic disease
   - will continue to follow serial [**Last Name (LF) 567**], [**First Name3 (LF) **] benefit from EPO and iron
   as outpatient
   # FEN: hold tube feeds for now, will readdress nutritional status
   tomorrow after ERCP.
   .
   # PPx: Heparin/ASA/plavix, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.
   # Code: Full.
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-14 11:44:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ERCP--completed, stent changed, "pus" visualized and drained this
   morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-14**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2175-8-13**] 08:06 PM
   Morphine Sulfate - [**2175-8-13**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-14**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 74 (63 - 79) bpm
   BP: 124/66(85) {94/54(69) - 173/119(131)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 138 kg
   Height: 71 Inch
   CVP: 10 (1 - 16)mmHg
   Total In:
                                                                    460 mL
                                                                    761 mL
   PO:
   TF:
   IVF:
                                                                    460 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  4,214 mL
                                                                     27 mL
   Urine:
                                                                     14 mL
                                                                     27 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,754 mL
                                                                    734 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (397 - 736) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.28/58/62/25/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended, post ERCP distention
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   255 K/uL
   93 mg/dL
   12.5 mg/dL
   25 mEq/L
   5.0 mEq/L
   66 mg/dL
   100 mEq/L
   144 mEq/L
   31.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2175-8-10**]  11:38 AM
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   Hct
   28.8
   27.8
   28.4
   31.0
   Plt
   152
   155
   223
   255
   Cr
   8.7
   7.3
   10.0
   12.5
   TCO2
   26
   29
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   Other labs: PT / PTT / INR:14.0/30.2/1.2, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:42/43, Alk Phos / T Bili:286/10.0,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.2 g/dL, LDH:178 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:5.6
   mg/dL
   Imaging: CXR-ETt and CVL in good position, he has likely bilateral
   effusions and some change in right>left infiltrates day to day without
   clear and steady trend to worsening.
   Assessment and Plan
   43 yo male admit with CAD, HTN, ESRD and initial presentation following
   HD with sepsis.  Now in the setting of concern for persistent biliary
   sepsis in the setting of return to hemodialysis and otherwise clinical
   improvement in regards to the septic insult.  He now has had repeat
   ERCP this am with drainage of what appeared to be infected fluid and
   this may contribute to furter improvement in the remaining parameters
   which suggested obstruction.
   Sepsis-Biliary source with local intervention completed this am.  He
   has had continued good preservation of filling pressures with CVP=[**11-11**]
   this am.  He has no pressor requirement at this time.  Will continue
   -Zosyn
   -F/U culture results
   -Appreciate ERCP intervention
   Respiratory Failure-his original need for intubation was driven by
   acute picture of sepsis and volume overload in setting of hypoxemia.
   He now has good hemodynamic stability and will have further volume
   removal this afternoon at HD.  Will move to extubation if stable after
   HD and good tolerance of PSV in the interim.
   Coronary Artery Disease-
   -Plavix for stent
   -Maintain good rate pressure product control
   -no evidence ischemia at this time
   -Will need BP and HR control following extubation
   Chronic Renal Disease with Acute exacerbation-
   -HD today
   -Goal if further negative fluid balance across day today.
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2175-08-15 06:54:00 Physician Resident Progress Note
Chief Complaint: RUQ pain, fever, jaundice.
   24 Hour Events:
 ERCP - At [**2175-8-14**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2175-8-14**] 06:25 PM
 NON-INVASIVE VENTILATION - START [**2175-8-15**] 12:49 AM
 NON-INVASIVE VENTILATION - STOP [**2175-8-15**] 02:00 AM
   -ERCP done yesterday , stent was replaced.
   -s/p HD today
   -extubated late afternoon, able to tolerate PO, CPAP overnight.
   -noted a rash over chest and all across back. Initially thought it was
   d/t allergy to lotion, wrote for sarna. Later on in evening patient
   complained of itchiness over legs- pt was given benadryl 25mg PO x1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-15**] 06:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2175-8-14**] 01:00 PM
   Pantoprazole (Protonix) - [**2175-8-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-15**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-15**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 61 (61 - 90) bpm
   BP: 133/71(91) {82/49(59) - 148/79(103)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.4 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 3 (3 - 19)mmHg
   Total In:
                                                                  1,356 mL
                                                                    478 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    396 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  4,334 mL
                                                                      0 mL
   Urine:
                                                                     34 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,978 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 645) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, icteric contjuntivae
   Head, Ears, Nose, Throat: Normocephalic, dry mucous membranes, no JVD
   visible, no bruits
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), MR
   murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilateraly, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: Back, arms and legs predominantly, erythematous
   [**Last Name (un) 606**], blanching, and in arms papules predominate. It is itchi and no
   other lesions are seen., Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   306 K/uL
   10.5 g/dL
   103 mg/dL
   9.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   100 mEq/L
   144 mEq/L
   31.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
                             [**2175-8-15**]  03:56 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   8.2
   Hct
   28.8
   27.8
   28.4
   31.0
   31.9
   Plt
   152
   155
   223
   255
   306
   Cr
   8.7
   7.3
   10.0
   12.5
   9.9
   TCO2
   29
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   103
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:50/49, Alk Phos / T Bili:286/7.5,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, LDH:192 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, stage V CKF on HD who presented with
   hypotension, fever, pancreatitis and hepatitis concerning for bilary
   pancreatitis and biliary sepsis.  TTE as per cardiology not concerning
   for endocarditis. CT shows no intrahepatic biliary dilatation and stent
   in appropriate position, despite rising Tbil and AP over several days.
   # Hypotension/Sepsis: Patient presented with SIRS, lactate of 2.5 with
   a presumed biliary source. OSH blood cultures grew enterobacter
   (pan-sensitive except to cefazolin), his cultures here have otherwise
   been negative. He had GNR in the biliary fluid. Currently he is being
   treated with zosyn (today day=6). Plan for ERCP today for rising bili
   counts which may represent a biliary obstruction, and likely the
   primary cause of his sepsis. He continues to have low-grade fevers
   on-off while on antibiotics, however has remained afebrile overnight.
   Most recent CXR shows some airspace opacities, however likely due to
   positioning than infection so pulmonary process is not likely the cause
   of his fevers.
   - continue zosyn
   - trend fevers and WBC
   -f/u pending blood and sputum cultures
   - [**Hospital3 **] blood culture
 grew enterobacter resistant to
   cefazolin but otherwise pan-sensitive, narrowed antibiotic coverage to
   zosyn only (d/c gent, vanc)
   -continue HD for fluid overload
   # Respiratory failure: Patient is still requiring PEEP support on
   ventilator. [**Month (only) 11**] be candidate for extubation today, however given the
   ERCP would prefer to do this after procedure. HD has been able to
   remove significant amounts of fluid however on CXR patient appears to
   have significant congestion still. He does have HD today post-ERCP
   which will hopefully improve his fluid overload. Will continue to wean
   throughout the day to allow for extubation if clinically appropriate.
   -decrease sedation post- ERCP as tolerated
   - F/u CXR and sputum cultures
   - Try to wean down PEEP after ERCP
   - If doing ok SBT later today with goal for extubation tonight or
   tomorrow morning
   .
   # Liver function/Gallstone pancreatitis: Despite lack of abdominal pain
   clinically and negative CT the patients bili and AP have continued to
   increase over the last several days which is concerning for
   obstruction. Hepatology and ERCP (appreciate recommendations) suggested
   ERCP today to evaluate further.
   - plan for ercp today
   -follow-up on erpc and hepatology recs
   - Abdomen CT to showed stent in right position, however suboptimal
   study for eval of stent patency
   -continue to trend enzymes
   -NPO
   # ESRD: On HD
   - continue HD; goal -6L (yesterday 4.2L off)
   - dose all abx w/ HD
   - resume phos binders, sensipar when taking po
   - monitor chem daily
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - resume aspirin, plavix, statin post-ERCP
   - continue telemetry monitoring
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - intubated
   # Anemia: Normocytic with normal RDW, this may be chronic given CKD.
   Hemolysis labs are within normal limits.
   - H/H have been trending up; continue to monitor
   - will continue to follow serial [**Last Name (LF) 567**], [**First Name3 (LF) **] benefit from EPO and iron
   as outpatient
   # FEN: hold tube feeds for ERCP, replete electrolytes prn
   .
   # PPx: Heparin/ASA/plavix, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.
   # Code: Full.
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-15 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ERCP - At [**2175-8-14**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2175-8-14**] 06:25 PM
 NON-INVASIVE VENTILATION - START [**2175-8-15**] 12:49 AM
 NON-INVASIVE VENTILATION - STOP [**2175-8-15**] 02:00 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-15**] 06:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2175-8-14**] 01:00 PM
   Pantoprazole (Protonix) - [**2175-8-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2175-8-15**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2175-8-15**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 72 (61 - 90) bpm
   BP: 119/72(88) {82/49(59) - 157/80(106)} mmHg
   RR: 28 (17 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.4 kg (admission): 138 kg
   Height: 71 Inch
   CVP: 7 (3 - 19)mmHg
   Total In:
                                                                  1,356 mL
                                                                  1,210 mL
   PO:
                                                                    360 mL
                                                                  1,080 mL
   TF:
   IVF:
                                                                    396 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,334 mL
                                                                      0 mL
   Urine:
                                                                     34 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,978 mL
                                                                  1,210 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 645) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: ///27/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  RASH
diffuse macular erruption with prurutis.
   Lungs;Some ronchi but no wheezes appreciated.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   306 K/uL
   103 mg/dL
   9.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   100 mEq/L
   144 mEq/L
   31.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-8-10**]  07:01 PM
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
                             [**2175-8-15**]  03:56 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   8.2
   Hct
   28.8
   27.8
   28.4
   31.0
   31.9
   Plt
   152
   155
   223
   255
   306
   Cr
   8.7
   7.3
   10.0
   12.5
   9.9
   TCO2
   29
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   103
   Other labs: PT / PTT / INR:14.7/31.4/1.3, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:50/49, Alk Phos / T Bili:286/7.5,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, LDH:192 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   43 yo male admit with respiratory failure and acute cholangititis now
   s/p extubation and ERCP intervention.  He has tolerated extubation well
   but remains with significant component of volume overload and will need
   continued dialysis for support.  In the background is signficant
   obstructive sleep apnea which does require treatment with CPAP at
   patients baseline settings.
   1)Sepsis-
   Improved and resolved now with residual volume overload
   will complete ABX course as defined but will have to consider change in
   ABX choice due to rash likely related to medicaitons with Zosyn
   suspected.
   -D/C A-line
   2)Respiratory Failure-
   Extubation
   Will need CPAP support O/N due to h/o OSA and may help with lung
   recruitment.
   OOB to chair with goal to ambulate today
   3)Renal Failure-
   Continue with HD
   4)Cholangitis-
   -Improved enzymes and exam
   -Willl monitor LFT
s daily and expect small and transient (lasting
   seconds) pain to diminish
   -ERCP team to follow
   -Would prefer change in ABX based upon micro data
   -Enterobacter was identified
   5)Rash-
   -likely drug related rash
   -Will complete course with Gent and continue to total of 14 day course.
   5)CAD-
   ASA/PLavix/Simvastatin/Lopressor
   gg
   ICU Care
   Nutrition: Will advance to clears if Gi in agreement.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2175-08-16 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -switched to ciprofloxacin, as concern for zosyn rash
   -CPAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-15**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-8-15**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-8-16**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.1
C (95.2
   HR: 57 (57 - 72) bpm
   BP: 139/69(95) {100/54(72) - 157/126(128)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 132.4 kg (admission): 138 kg
   Height: 71 Inch
    CVP: 12 (5 - 12)mmHg
   Total In:
                                                                  1,910 mL
                                                                    150 mL
   PO:
                                                                  1,780 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    130 mL
   Blood products:
   Total out:
                                                                      5 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,905 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   10.0 g/dL
   111 mg/dL
   12.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   64 mg/dL
   92 mEq/L
   134 mEq/L
   30.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
                             [**2175-8-15**]  03:56 AM
                             [**2175-8-16**]  05:20 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   8.2
   7.3
   Hct
   28.8
   27.8
   28.4
   31.0
   31.9
   30.5
   Plt
   152
   155
   223
   255
   306
   293
   Cr
   8.7
   7.3
   10.0
   12.5
   9.9
   12.5
   TCO2
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   103
   111
   Other labs: PT / PTT / INR:13.7/31.4/1.2, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:48/36, Alk Phos / T Bili:251/3.9,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.1 g/dL, LDH:239 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   43 yo man with CAD, HTN, ESRD on HD who presented with hypotension,
   fever, pancreatitis and hepatitis concerning for bilary pancreatitis
   and biliary sepsis.  TTE as per cardiology not concerning for
   endocarditis. Now s/p stent repositioning.
   # Hypotension/Septic shock: Patient s/p septic shock from  biliary
   source , enterobacter (pan-sensitive except cefazolin). Here cultures
   negative so far. On zosyn however given drug rash zosyn was stopped
   yesterday and switched to ciprofloxacin. .
   - continue benadryl for rash, if not improving consider steroids
   -continue  ciprofloxacin
   - trend fevers, WBC
   -trend bili
   -f/u pending blood and sputum cultures
   # Respiratory failure: On CPAP overnight with sats in low 90%. Today on
   RA in high 80s. Continue NC or shovel mask to improve oxygenation. This
   is likely given to patients body habitus and laying down in bed, as O2
   sats improve to low 90s when he sits up.
   - F/u CXR and sputum cultures
   -F/u fluid balance
   -CPAP overnight
   .
   # Rash: compatible with drug rash. Most likely due to zosyn, so
   switching to ciprofloxacin
   -stopped offending zosyn
   -if doesn
t improve over next 2-3 days would consider other source
   -if rash expands, itching is worse or he develops respiratory
   compromise start steroids
   -Benadryl PRN itching
   # Liver function/Gallstone pancreatitis: Bilirubin trending down after
   ERCP yesterday.
   -follow-up on erpc and hepatology recs
   -continue to trend enzymes
   -Start clears and progress diet.
   # ESRD: On HD
   - continue HD;
   - dose all abx w/ HD
   - resume phos binders, sensipar when taking po
   - monitor chem daily
   # CAD: S/p stent in [**1-6**], still on plavix so suspect DES. Records at
   [**Hospital1 475**]. ECG with some ischemic changes of unclear duration, no active
   symptoms. CE stably elevated on admission. In setting of ESRD, unlikely
   to be acute event however will continue to cycle since in setting of
   hypotensive episodes there is concern for ischemia. Echo shows
   significant MR.
   - On ASA, plavix, statin and beta blocker
   # OSA: Witnessed apenic episodes while asleep. Known h/o of OSA on CPAP
   as outpatient but has not been tolerating of recent.
   - On CPAP overnight with good results
   # FEN: advance as tolerated, replete electrolytes prn
   .
   # PPx: Heparin/ASA/plavix, colace, senna, PPI, ssi.
   # Acccess: right IJ triple lumen, PIV x1.  D/C Arterial line
   # Code: Full.
   #Dispo: to medicine floor today
   # Communication: Patient, ex-wife [**Name (NI) 479**] [**Name (NI) 480**] [**Telephone/Fax (1) 481**] or sister
   [**Name (NI) 482**] [**Name (NI) **] [**Telephone/Fax (1) 483**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-08-16 10:08:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CPAP O/N-Well tolerated
   Zosyn change to Cipro in setting of rash
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2175-8-15**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-8-15**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2175-8-16**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 61 (57 - 72) bpm
   BP: 164/91(116) {100/54(72) - 164/126(128)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132.4 kg (admission): 138 kg
   Height: 71 Inch
   CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  1,910 mL
                                                                    300 mL
   PO:
                                                                  1,780 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    130 mL
   Blood products:
   Total out:
                                                                      5 mL
                                                                      5 mL
   Urine:
                                                                      5 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,905 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Not assessed, Rash: Evolution of macular rash
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   293 K/uL
   111 mg/dL
   12.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   64 mg/dL
   92 mEq/L
   134 mEq/L
   30.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2175-8-11**]  04:09 AM
                             [**2175-8-12**]  03:04 AM
                             [**2175-8-12**]  10:51 AM
                             [**2175-8-13**]  04:53 AM
                             [**2175-8-13**]  05:30 PM
                             [**2175-8-13**]  06:24 PM
                             [**2175-8-14**]  03:33 AM
                             [**2175-8-14**]  03:44 AM
                             [**2175-8-15**]  03:56 AM
                             [**2175-8-16**]  05:20 AM
   WBC
   4.8
   4.7
   6.3
   7.8
   8.2
   7.3
   Hct
   28.8
   27.8
   28.4
   31.0
   31.9
   30.5
   Plt
   152
   155
   223
   255
   306
   293
   Cr
   8.7
   7.3
   10.0
   12.5
   9.9
   12.5
   TCO2
   31
   29
   28
   28
   Glucose
   118
   121
   108
   93
   103
   111
   Other labs: PT / PTT / INR:13.7/31.4/1.2, CK / CKMB /
   Troponin-T:154/4/0.59, ALT / AST:48/36, Alk Phos / T Bili:251/3.9,
   Amylase / Lipase:408/867, Differential-Neuts:82.4 %, Lymph:10.8 %,
   Mono:5.0 %, Eos:1.6 %, Fibrinogen:1182 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.1 g/dL, LDH:239 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   43 yo male with ESRD and on HD now treated for biliary source of sepsis
   and with respiratory failure resolved patient has shown encouraging
   early tolerance of CPAP overnight.  He, however, has had some further
   evlution of the diffuse macular [**Last Name (un) 638**] noted to evolve over yestereday.
   1)Respiratory Failure-
   -Will utilize CPAP at night
   -Wean O2 as possible
   -Out of bed to chair and goal to ambulate today.
   2)Biliary Sepsis-
   -Continue with antibiotics and monitor response over time as we have
   continued improvement in parameters
   -Expecte 14 day course overall
   -D/C CVL and A-line
   -Will utilize Cipro going forward
   3)Rash-
   -Still most likely drug erruption given timing, nature and evolution
   -The concern is for the peticheal component and the fact that we have
   been incomplete in managing the symptoms
   -Will therefore consult dermatology given atypical evolution with
   plaques on elbow and peticheae in lower extermities
   -Sarna lotion to skin
   4)ESRD
HD today
   ICU Care
   Nutrition: po diet, patient with poor appetite
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2175-8-8**] 12:07 PM
   Arterial Line - [**2175-8-8**] 07:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To Floor
   Total time spent: 35